US06943183B2
4-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}-N-methylbenzamide (Compound 191)
Using the method in Example 172, 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid (50 mg, 0.10 mmol, 0.20M in DMF) and a saturated solution of methylamine (1.0 ml in DMF) were combined to give 40 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 512 [M+H]+.

reactant | 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid | 0.10 mmol, 0.20M, 50 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=CC=C(C(=O)O)C=C1 | C29H26N2O4S
reactant | methylamine | 1.0 ml | CN | CH5N
product | 4-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}-N-methylbenzamide | 40 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=CC=C(C(=O)NC)C=C1 | C30H29N3O3S
